US07629358B2
Preparation 161: [3-((2R)-2-{[(1R)-1-Phenylethyl]amino}propyl)phenyl]acetic acid
Lithium hydroxide solution (1M in water, 90 mL, 90 mmol) was added to a solution of methyl[3-((2R)-2-{[(1R)-1-phenyl-ethyl]-amino}-propyl)-phenyl]-acetate hydrochloride (preparation 26), (13.5 g, 43.5 mmol) in methanol (200 mL) and the mixture was stirred at room temperature for 18 hours. 1M Hydrochloric acid (90 mL) was then added to the reaction mixture and the methanol removed in vacuo. The resulting precipitate was filtered off and washed with water (20 mL) and a mixture of ethanol/diethyl ether, 20:80, to afford the title compound as a solid in 91% yield, 11.8 g 1H NMR (400 MHz, CD3OD) δ: 7.52-7.45 (5H, m), 7.22-7.18 (2H, m), 7.19 (1H, s), 6.92 (1H, d), 4.56-4.48 (1H, q), 3.46 (2H, s), 3.26-3.13 (2H, m), 2.66-2.62 (1H, m), 1.62 (3H, d), 1.16 (3H, d) ppm; LRMS ESI m/z 298 [M+H]+

reactant | Lithium hydroxide | 90 mmol, 1M, 90 mL | [OH-].[Li+]
reactant | methyl[3-((2R)-2-{[(1R)-1-phenyl-ethyl]-amino}-propyl)-phenyl]-acetate hydrochloride | 43.5 mmol, 13.5 g | Cl.COC(CC1=CC(=CC=C1)C[C@@H](C)N[C@H](C)C1=CC=CC=C1)=O
reactant | Hydrochloric acid | 1M, 90 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
product | [3-((2R)-2-{[(1R)-1-Phenylethyl]amino}propyl)phenyl]acetic acid | 91% yield | C1(=CC=CC=C1)[C@@H](C)N[C@@H](CC=1C=C(C=CC1)CC(=O)O)C | C19H23NO2
